US07429665B2
4-Benzyloxy-2-fluoro-benzoic acid benzyl ester
Following the procedure for the preparation of 4-(Quinolin-2-ylmethoxy)-benzoic acid methyl ester but substituting two equivalents of benzyl bromide and 2-Fluoro4-hydroxy-benzoic acid provided the title compound. MS: (M+H m/z=337.2).

reactant | 4-(Quinolin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C18H15NO3
reactant | benzyl bromide | two equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-Fluoro4-hydroxy-benzoic acid | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
product | 4-Benzyloxy-2-fluoro-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=C(C=C1)OCC1=CC=CC=C1)F)=O | C21H17FO3
